US07423159B2
A mixture of (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid (600 mg), oxalyl chloride (260 μL), tetrahydrofuran (10 mL) and N,N-dimethylformamide (2 drops) was stirred at room temperature for 3 hrs. The reaction mixture was concentrated and diluted with N,N-dimethylacetamide (10 mL). Ethyl 4-aminobenzoate (482 mg) was added and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was poured into a 0.1N aqueous hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium hydrogen carbonate, and then with saturated brine, dried (MgSO4) and concentrated. The obtained solid was recrystallized from acetone-hexane to give ethyl 4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzoate (810 mg, yield 84%) as colorless needle crystals. melting point: 202-203° C.

reactant | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid | 600 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)O | C13H11FN2O2
reactant | oxalyl chloride | 260 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | ethyl 4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzoate | 810 mg, yield 84% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C(=O)OCC)C=C1 | C22H20FN3O3
